Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Benadryl / Haldol / psycotropics / vancomycin / Benadryl Allergy 
/ Pepcid / Zantac
 
Attending: ___.
 
Chief Complaint:
Liver laceration after a mechanical fall. 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ yo woman who sustained a mechanical fall in the 
setting of alcohol use, found to have a 4cm liver laceration on 
imaging. 
 
Past Medical History:
COPD, DVT< GERD, HTN, Osteoporosis, Pancreatitis, Falls, ETOH, 
RSD in L foot, CRPS b/l legs, Hypertrophic facet arthropathy at 
L4-L5, gamma nail in left femur ___ months ago, anxiety 
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Admission:
General-NAD
Cardiac-RRR, no r/m/g
Pulm-CTAB
Abdomen-soft, nondistended, ecchymosis over abdomen, some rUQ 
tenderness to palpation
Extremities-2+ pulses

DISCAHRGE
Admission:
General-NAD
Cardiac-RRR, no r/m/g
Pulm-CTAB
Abdomen-soft, nondistended, ecchymosis over abdomen, minimal 
tenderness to palpation
Extremities-2+ pulses
 
Pertinent Results:
___ 05:25PM   TYPE-ART PO2-89 PCO2-31* PH-7.41 TOTAL 
CO2-20* BASE XS--3 COMMENTS-GREEN TOP 
___ 05:25PM   GLUCOSE-51* LACTATE-2.7* NA+-145 K+-4.6 
CL--108
___ 05:25PM   HGB-14.3 calcHCT-43 O2 SAT-94 CARBOXYHB-2 MET 
HGB-0
___ 05:25PM   freeCa-0.99*
___ 05:10PM   UREA N-8 CREAT-0.5
___ 05:10PM   estGFR-Using this
___ 05:10PM   LIPASE-59
___ 05:10PM   cTropnT-<0.01
___ 05:10PM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:10PM   WBC-8.4 RBC-4.16 HGB-13.5 HCT-40.2 MCV-97 
MCH-32.5* MCHC-33.6 RDW-13.7 RDWSD-49.0*
___ 05:10PM   PLT COUNT-168
___ 05:10PM   ___ PTT-23.4* ___
___ 05:10PM   ___
 
Brief Hospital Course:
This is a ___ yo woman who sustained a mechanical fall in the 
setting of alcohol use, found to have a 4 cm liver laceration on 
imaging. The patient was clinically well appearing on admission 
and was monitored closely for signs of bleeding or clinical 
worsening. Given the patient's continued well appearance 24+ hrs 
after admission, she is safe to go home. She will follow up with 
her outpatient hepatologist. No medication changes were made 
here. 
 
Medications on Admission:
1.  Albuterol Inhaler ___ PUFF IH Q6H:PRN wheeze, sob  
2.  CloNIDine 0.2 mg PO TID  
3.  Cyclobenzaprine 5 mg PO HS  
4.  FoLIC Acid 1 mg PO DAILY  
5.  LORazepam 2 mg PO BID  
6.  Multivitamins W/minerals 1 TAB PO DAILY Duration: 5 Days  
7.  Ondansetron 4 mg PO Q8H:PRN nausea  
8.  Propranolol 40 mg PO QHS  
9.  Vitamin D ___ UNIT PO DAILY  
 
Discharge Medications:
1.  Albuterol Inhaler ___ PUFF IH Q6H:PRN wheeze, sob  
2.  CloNIDine 0.2 mg PO TID  
3.  Cyclobenzaprine 5 mg PO HS  
4.  FoLIC Acid 1 mg PO DAILY  
5.  LORazepam 2 mg PO BID  
6.  Multivitamins W/minerals 1 TAB PO DAILY Duration: 5 Days  
7.  Ondansetron 4 mg PO Q8H:PRN nausea  
8.  Propranolol 40 mg PO QHS  
9.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Liver laceration 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Ms. ___,
You came here after a fall and were found to have a laceration 
(tear) in your liver on imaging. We monitored you closely here 
for concerning symptoms, including bleeding. Given your well 
appearance and reassuring lab work, you are now safe to go home 
with outpatient follow up with your hepatologist. Your 
hepatologist should order a thyroid lab test to be complete. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

 *You experience new chest pain, pressure, squeezing or 
tightness.

 *New or worsening cough, shortness of breath, or wheeze.

 *If you are vomiting and cannot keep down fluids or your 
medications.

 *You are getting dehydrated due to continued vomiting, 
diarrhea, or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat, or feeling dizzy or faint when standing.

 *You see blood or dark/black material when you vomit or have a 
bowel movement.

 *You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

 *You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

 *Any change in your symptoms, or any new symptoms that concern 
you.

 Please resume all regular home medications , unless 
specifically advised not to take a particular medication. Also, 
please take any new medications as prescribed.

 Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

 
Followup Instructions:
___